US07601714B2
1-(trans-4-{[(5-nitro-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidin-4-yl)amino]methyl}cyclohexyl)azetidine-2-carboxamide
To a solution of 1-(trans-4-{[(5-nitro-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidin-4-yl)amino]methyl}cyclohexyl)azetidine-2-carboxylic acid (170 mg, 0.27 mmol) in DMF (1.5 mL) were added ammonium chloride (170 mg, 3.2 mmol), HATU (303 mg, 0.80 mmol) and DIPEA (370 μL, 2.1 mmol). The reaction mixture was stirred at room temperature for 16 h. The reaction mixture was diluted with EtOAc and washed with saturated NaHCO3, water (×3) and brine. The organic phase was dried over Na2SO4 and concentrated. The resulting residue was purified by silica gel preparative TLC using 95:5 CH2Cl2:MeOH as an eluent to afford 7 mg of the title compound, m/z 522.6 [M−1]+

reactant | 1-(trans-4-{[(5-nitro-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidin-4-yl)amino]methyl}cyclohexyl)azetidine-2-carboxylic acid | 0.27 mmol, 170 mg | [N+](=O)([O-])C=1C(=NC(=NC1)NCC1=C(C=CC=C1)OC(F)(F)F)NC[C@@H]1CC[C@H](CC1)N1C(CC1)C(=O)O | C23H27F3N6O5
reactant | ammonium chloride | 3.2 mmol, 170 mg | [Cl-].[NH4+]
reactant | HATU | 0.80 mmol, 303 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 2.1 mmol, 370 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(trans-4-{[(5-nitro-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidin-4-yl)amino]methyl}cyclohexyl)azetidine-2-carboxamide | 7 mg | [N+](=O)([O-])C=1C(=NC(=NC1)NCC1=C(C=CC=C1)OC(F)(F)F)NC[C@@H]1CC[C@H](CC1)N1C(CC1)C(=O)N | C23H28F3N7O4
